US06110914
(R)-(-)-5'-Nitrospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine]
(R)-(-)-Spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] (3.03 g, 14 mmol) was dissolved in concentrated sulfuric acid (7 mL) at 0-5° C., fuming nitric acid (3.3 mL, 70.2 mmol) was added over 10 minutes, the mixture was stirred for 1 hour, and heated at 65-70° C. for 24 hours. Cooled, poured onto ice (200 gm), added 300 mL of water, basified to pH 10 with solid potassium carbonate, stirred for 1 hour, filtered off and dried the solid title compound (3.6 g, 13.8 mmol, 98%): electrospray MS (m/z, relative intensity) 262 ([MH]+, 100).

reactant | (R)-(-)-Spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 14 mmol, 3.03 g | O1[C@@]2(CC=3C1=NC=CC3)CN3CCC2CC3 | C13H16N2O
reactant | nitric acid | 70.2 mmol, 3.3 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | 300 mL | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | sulfuric acid | 7 mL | S(O)(O)(=O)=O | H2O4S
product | (R)-(-)-5'-Nitrospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 13.8 mmol, 3.6 g, 98% | [N+](=O)([O-])C=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C13H15N3O3
